US08633212B2
To a solution of 6′-bromo-5,6,8,9-tetrahydrospiro[benzo[7]annulene-7,2′-inden]-1′(3′H)-one (20 mg, 0.059 mmol) in DCM (2 mL) was added TiCl4 (44.7 mg, 0.235 mmol) dropwise, the mixture was stirred at 50° C. at Ar2 under microwave for 20 minutes, N,N′-methanediylidenebis(1,1,1-trimethylsilanamine) (43.8 mg, 0.235 mmol) was added dropwise. The mixture was stirred at 60° C. at Ar2 under microwave for 10 minutes and repeated the same operation for one time and then poured into ice-water (10 mL). The aqueous layer was extracted with CH2Cl2, which was combined with the organic layer. The organic layer was dried and concentrated to give crude (Z)—N-(5′-bromo-5,6,8,9-tetrahydrospiro[benzo[7]annulene-7,2′-indene]-3′(1′H)-ylidene)cyanamide (20 mg, 4%).

reactant | 6′-bromo-5,6,8,9-tetrahydrospiro[benzo[7]annulene-7,2′-inden]-1′(3′H)-one | 0.059 mmol, 20 mg | BrC1=CC=C2CC3(C(C2=C1)=O)CCC1=C(CC3)C=CC=C1 | C19H17BrO
reactant | N,N′-methanediylidenebis(1,1,1-trimethylsilanamine) | 0.235 mmol, 43.8 mg | C(=N[Si](C)(C)C)=N[Si](C)(C)C | C7H18N2Si2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 0.235 mmol, 44.7 mg | Cl[Ti](Cl)(Cl)Cl
product | (Z)—N-(5′-bromo-5,6,8,9-tetrahydrospiro[benzo[7]annulene-7,2′-indene]-3′(1′H)-ylidene)cyanamide | 20 mg, 4% | BrC=1C=C2\C(\C3(CC2=CC1)CCC1=C(CC3)C=CC=C1)=N/C#N | C20H17BrN2
